US07872022B2
f) (−)-(3S,4R)-3-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-4-(4-fluoro-phenyl)-piperidine hydrochloride
A solution of (−)-(3S,4R)-3-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-(4-fluoro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (1.10 g, 2.05 mmol) in a 1.25 M solution of hydrochloric acid in methanol (16.4 ml, 3.3 mmol) was stirred for 30 min. at 40° C. The reaction mixture was concentrated to dryness and the residue was partitioned between tert-butyl methyl ether and a 1 M aqueous sodium hydroxide solution. After extraction with three portions of tert-butyl methyl ether the combined organic layers were dried over sodium sulfate and concentrated in vacuo to 0.890 g (99.5%) of the title compound as a colorless white solid.

reactant | (−)-(3S,4R)-3-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-(4-fluoro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.05 mmol, 1.10 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C26H28F7NO3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 3.3 mmol, 16.4 ml | CO | CH4O
product | (−)-(3S,4R)-3-(3,5-Bis-trifluoromethyl-benzyloxymethyl)-4-(4-fluoro-phenyl)-piperidine hydrochloride | Cl.FC(C=1C=C(COC[C@@H]2CNCC[C@H]2C2=CC=C(C=C2)F)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C21H20F7NO.ClH/c22-18-3-1-14(2-4-18)19-5-6-29-10-15(19)12-30-11-13-7-16(20(23,24)25)9-17(8-13)21(26,27)28;/h1-4,7-9,15,19,29H,5-6,10-12H2;1H/t15-,19-;/m0./s1
